US06063806
N-[1-Acetyl-3-(2-acetoxyethyl)-4,6-dimethylindolin-7-yl]-2,2-dimethylpropanamide (4.0 g) was dissolved in EtOH (40 ml) and a solution of NaOH (2.2 g) in water (10 ml) was added, which was followed by stirring at 60° C. for 10 hr. EtOH was evaporated under reduced pressure, and CHCl3 (100 ml) was added. After washing with water, the mixture was dried over anhydrous sodium sulfate, and CHCl3 was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: CHCl3 /MeOH=50/1-10/1) to give 1.6 g of N-[3-(2-hydroxyethyl)-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide.

reactant | N-[1-Acetyl-3-(2-acetoxyethyl)-4,6-dimethylindolin-7-yl]-2,2-dimethylpropanamide | 4.0 g | C(C)(=O)N1CC(C2=C(C=C(C(=C12)NC(C(C)(C)C)=O)C)C)CCOC(C)=O | C21H30N2O4
reactant | NaOH | 2.2 g | [OH-].[Na+]
solvent | EtOH | 40 ml | CCO | C2H6O
solvent | water | 10 ml | O | H2O
product | N-[3-(2-hydroxyethyl)-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide | 1.6 g | OCCC1CNC2=C(C(=CC(=C12)C)C)NC(C(C)(C)C)=O | C17H26N2O2
